US07765698B2
Under a nitrogen atmosphere, a mixture of octadecylamine (389 grams, 1.44 mol), di(propylene glycol) dimethyl ether (1.50 liters), sodium acetate (134 grams, 1.63 mol), and cyanuric chloride (88.4 grams, 0.479 mol) was stirred for thirty minutes and then heated to 85° C. for two hours. The reaction mixture was heated to 155° C. at which temperature acetic acid was allowed to reflux out of the reaction mixture. The reaction mixture was heated to 170° C. for sixteen hours. 2-Propanol (1.60 liters) was added to the reaction mixture when it had cooled to 80° C. The precipitate was filtered at room temperature and washed with excess 2-propanol. The solid was stirred in refluxing water (2.00 liters) for two hours, filtered, and washed with excess water. The solid was stirred in refluxing 2-propanol (2.00 liters), filtered, and washed with excess 2-propanol to yield 377 grams of N,N′,N″-trioctadecyl-1,3,5-triazine-2,4,6-triamine as a white solid.

reactant | octadecylamine | 1.44 mol, 389 grams | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | di(propylene glycol) dimethyl ether | 1.50 liters | COCCCOCCCOC | C8H18O3
reactant | sodium acetate | 1.63 mol, 134 grams | C(C)(=O)[O-].[Na+]
reactant | cyanuric chloride | 0.479 mol, 88.4 grams | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
solvent | 2-Propanol | 1.60 liters | CC(C)O | C3H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N′,N″-trioctadecyl-1,3,5-triazine-2,4,6-triamine | 377 grams | C(CCCCCCCCCCCCCCCCC)NC1=NC(=NC(=N1)NCCCCCCCCCCCCCCCCCC)NCCCCCCCCCCCCCCCCCC | C57H114N6
